US05371100
Trimethylsulfoxonium iodide (67.8 g) was added portionwise to an ice-cooled dispersion of 60% sodium hydride in oil (11.8 g) in dimethyl sulfoxide (450 ml) under nitrogen atmosphere. After stirring for 45 minutes at room temperature, the mixture was again cooled in an ice-water bath. To the mixture was added dropwise a solution of (2R)-4'-chloro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone (69 g) in dimethylsulfoxide (100 ml) over the period of 45 minutes, followed by stirring for 2 hours at room temperature. Cold water (600 ml) was added to the reaction mixture, which was then extracted three times with ethyl acetate (400 ml, 300 ml and 300 ml). The combined extracts were washed twice with water (100 ml) and once a saturated aqueous saline solution (100 ml), dried over anhydrous magnesium sulfate and distilled under reduced pressure, thereby affording a crude product of 2-(4-chlorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane (74.5 g) as a pale yellow oily substance.

reactant | Trimethylsulfoxonium iodide | 67.8 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
reactant | (2R)-4'-chloro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone | 69 g | ClC1=CC=C(C=C1)C([C@@H](C)OC1OCCCC1)=O | C14H17ClO3
reactant | water | 600 ml | O | H2O
solvent | dimethyl sulfoxide | 450 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-(4-chlorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane | 74.5 g | ClC1=CC=C(C=C1)C1(OC1)[C@@H](C)OC1OCCCC1 | C15H19ClO3
